US07459470B2
1.05 g (4 mmol) of N-(isoquinolin-3-yl)benzoic acid amide is mixed in 48 ml of methanol with 788 mg (6.4 mmol) of 4-pyridine carbaldehyde-N-oxide and with 0.24 ml of glacial acetic acid, and it is stirred for 24 hours at room temperature. 404 mg of sodium cyanoborohydride is then added to this solution in portions, and it is stirred for another 5 hours at room temperature. After standing overnight, it is mixed with 50 ml of dilute sodium bicarbonate solution and shaken out three times with 50 ml each of ethyl acetate. The collected organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is absorptively precipitated in a little ethyl acetate and suctioned off. 1.05 g (71% of theory) of N-(isoquinolin-3-yl)-2-(4-pyridylmethyl)aminobenzoic acid amide-N-oxide with a melting point of 212.2° C. is obtained.

reactant | N-(isoquinolin-3-yl)benzoic acid amide | 4 mmol, 1.05 g | C1=NC(=CC2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C16H12N2O
reactant | 4-pyridine carbaldehyde-N-oxide | 6.4 mmol, 788 mg | [N+]1(=CC=C(C=C1)C=O)[O-] | C6H5NO2
reactant | sodium cyanoborohydride | 404 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 48 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.24 ml | C(C)(=O)O | C2H4O2
product | N-(isoquinolin-3-yl)-2-(4-pyridylmethyl)aminobenzoic acid amide-N-oxide | 1.05 g, 71% | C1=NC(=CC2=CC=CC=C12)[NH+](C(C1=C(C=CC=C1)NCC1=CC=NC=C1)=O)[O-] | C22H18N4O2
